US05521147
By the method of Example 1, Step F, 2.51 g (0.011 mole) of 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-thione is reacted with 2.18 g (0.011 mole) of trichloromethyl chloroformate in 65 mL of toluene, yielding 4-chloro-2,3-dihydro-2,2-dimethyl-3-thioxobenzofuran-7-yl isocyanate.

reactant | 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-thione | 0.011 mole, 2.51 g | NC1=CC=C(C=2C(C(OC21)(C)C)=S)Cl | C10H10ClNOS
reactant | trichloromethyl chloroformate | 0.011 mole, 2.18 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2,3-dihydro-2,2-dimethyl-3-thioxobenzofuran-7-yl isocyanate | ClC1=CC=C(C2=C1C(C(O2)(C)C)=S)N=C=O | C11H8ClNO2S
